US08440689B2
A. tert-Butyl (1S,2R)-2-(7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate
A solution of tert-butyl (1S,2R)-2-(4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (150 mg, 0.352 mmol) and SELECTFLUOR® (150 mg, 0.422 mmol) in DCM (1 mL) and MeOH (1 mL) was stirred at RT overnight. Water was subsequently added and the mixture was extracted with CHCl3 (3×). The organic phases were combined, washed with brine, dried over MgSO4, and evaporated. The residue was purified by preparative HPLC to give the title compound (15 mg, 9.60%). [M+H] calc'd for C22H29FN6O3, 445. found, 445.

reactant | tert-butyl (1S,2R)-2-(4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.352 mmol, 150 mg | CN1N=CC(=C1)C1=NC(=CC2=C1C(NC2)=O)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C22H30N6O3
reactant | SELECTFLUOR | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | MeOH | 1 mL | CO | CH4O
reactant | Water | O | H2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (1S,2R)-2-(7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 15 mg, 9.60% | FC=1C2=C(C(=NC1N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C=1C=NN(C1)C)C(NC2)=O | C22H29FN6O3
